US04461907
4-(N,N-dimethylamino)-2'-hydroxychalcone (6.6 g.) was boiled under reflux with 2-N hydrochloric acid (100 ml.) for 3 hrs. The resulting solution of 4'-(N,N-dimethylamino) flavanone hydrochloride was added to a suspension of amalgamated zinc (from zinc powder (40 g.) and mercuric chloride (0.8 g.)) in water 30 ml. and the mixture stirred at 45° C. for 45 min. The residual zinc was separated by decantation from the aqueous liquor, stirred with acetic acid (150 ml.) and filtered. The zinc was further washed with acetic acid and the combined washing and filtrate were diluted with water and extracted with toluene. The extract was washed with water, dried over magnesium sulphate, filtered and evaporated. The residue was chromatographed on neutral alumina and the first fraction evaporated to give crystalline 4'-(N,N-dimethylamino) flavan which was recrystallised from methanol, and then 60°-80° C. petroleum ether, 0.7 g., m.p. 77°-78° C.

reactant | 4-(N,N-dimethylamino)-2'-hydroxychalcone | 6.6 g | CN(C)C1=CC=C(C=C1)C=CC(=O)C1=C(C=CC=C1)O | C17H17NO2
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | 4'-(N,N-dimethylamino) flavanone hydrochloride | Cl.CN(C)C1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1
solvent | water | 30 ml | O | H2O
catalyst | zinc | 40 g | [Zn] | Zn
product | 4'-(N,N-dimethylamino) flavan | CN(C)C1=CC=C(C2OC3=CC=CC=C3CC2)C=C1 | C17H19NO
